US08541588B2
3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
The title compound was prepared according to Preparation 255 using 2-iodo-4-(trifluoromethoxy)phenol (Preparation 226) and 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzene sulfonamide (Preparation 68).

reactant | 2-iodo-4-(trifluoromethoxy)phenol | IC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4F3IO2
reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzene sulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
product | 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethoxy)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)OC(F)(F)F)I)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C25H18F3IN4O6S2
